US07858654B2
EDCI (16.17 g, 84.38 mmol) was added portion wise to a stirred solution of 4′-methyl-5-nitro-biphenyl-3-carboxylic acid (15.49 g, 60.27 mmol), HOBt (11.44 g, 84.38 mmol) and 2-amino-1-methoxy-1-propane (7 ml, 66.31 mmol) in NMP (9.29 ml, 84.38 mmol), CH2Cl2 (180 ml) and DMF (20 ml) at 0° C. The mixture was allowed to warm to room temperature and was stirred at the same temperature for 14 hours. The reaction mixture was washed with 2N HCl, 2N NaOH, saturated aqueous NaHCO3, brine, dried over anhydrous Na2SO4, filtered, and concentrated under vacuum to give 4′-methyl-5-nitro-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide as a yellow oil (16.5 g, 83.5%). MS (M+H)=329.

reactant | EDCI | 84.38 mmol, 16.17 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4′-methyl-5-nitro-biphenyl-3-carboxylic acid | 60.27 mmol, 15.49 g | CC1=CC=C(C=C1)C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)O | C14H11NO4
reactant | HOBt | 84.38 mmol, 11.44 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMP | 84.38 mmol, 9.29 ml | CN1CCCC1=O | C5H9NO
solvent | CH2Cl2 | 180 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4′-methyl-5-nitro-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | 16.5 g, 83.5% | COCC(C)NC(=O)C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=C(C=C1)C | C18H20N2O4
